US04755209
1.44 parts of 4-(2-chloro-4-trifluoromethylphenoxy)phenol, 0.84 part of ethyl bromoacetate, and 1.38 parts of anhydrous potassium carbonate were refluxed for 3 hours in 20 parts by volume of methyl ethyl ketone in an atmosphere of nitrogen. After the reaction, the reaction mixture was filtered. The filtrate was concentrated, and water was added. The mixture was then extracted with ethyl acetate. The extract was washed with a 1N aqueous solution of sodium hydroxide and then with water, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 1.5 parts of ethyl 4-(2-chloro-4-trifluoromethylphenoxy)phenoxyacetate.

reactant | 4-(2-chloro-4-trifluoromethylphenoxy)phenol | ClC1=C(OC2=CC=C(C=C2)O)C=CC(=C1)C(F)(F)F | C13H8ClF3O2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | ethyl 4-(2-chloro-4-trifluoromethylphenoxy)phenoxyacetate | ClC1=C(OC2=CC=C(OCC(=O)OCC)C=C2)C=CC(=C1)C(F)(F)F | C17H14ClF3O4
